US05547606
(Preparation of trans-1-(2-(trans-4-ethylcyclohexyl)ethyl)-4-p-fluorophenyl-1-silacyclohexane)
The preparation was conducted in the same manner as in Example 18, except that 22.8 g (100 mmol) of 1-chloro-4-(p-fluorophenyl)-1-silacyclohexane and 2-(trans-4-ethylcyclohexyl) ethylmagnesium bromide were used instead of 24.6 g (100 mmol) of 1-chloro-4-(3,4-difluorophenyl)-1-silacyclohexane and 2-(trans-4-n-butylcyclohexyl)ethylmagnesium bromide.

reactant | 1-chloro-4-(p-fluorophenyl)-1-silacyclohexane | 100 mmol, 22.8 g | Cl[SiH]1CCC(CC1)C1=CC=C(C=C1)F | C11H14ClFSi
reactant | 2-(trans-4-ethylcyclohexyl) ethylmagnesium bromide | C(C)[C@@H]1CC[C@H](CC1)CC[Mg]Br
reactant | 1-chloro-4-(3,4-difluorophenyl)-1-silacyclohexane | 100 mmol, 24.6 g | Cl[SiH]1CCC(CC1)C1=CC(=C(C=C1)F)F | C11H13ClF2Si
reactant | 2-(trans-4-n-butylcyclohexyl)ethylmagnesium bromide | C(CCC)[C@@H]1CC[C@H](CC1)CC[Mg]Br
product | trans-1-(2-(trans-4-ethylcyclohexyl)ethyl)-4-p-fluorophenyl-1-silacyclohexane | C(C)[C@@H]1CC[C@H](CC1)CC[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)F | C21H33FSi
